US08648068B2
113.7 4-[4-Fluoro-2-((3S,5S)-5-hydroxymethyl-1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Potassium carbonate (278 mg) was added to a solution of acetic acid (2S,4S)-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-1-methanesulfonyl-pyrrolidin-2-ylmethyl ester (360 mg) in MeOH (5 ml) and THF (2 ml). The reaction was stirred at room temperature for 90 h. 10% aq. KHSO4 was added and the resultant suspension was filtered. The filter cake was washed with dichloromethan and diethylether.

reactant | Potassium carbonate | 278 mg | C([O-])([O-])=O.[K+].[K+]
reactant | acetic acid (2S,4S)-4-[2-(6-carbamoyl-5-methyl-thieno[2,3-d]pyrimidin-4-ylamino)-5-fluoro-phenoxy]-1-methanesulfonyl-pyrrolidin-2-ylmethyl ester | 360 mg | C(N)(=O)C1=C(C2=C(N=CN=C2NC2=C(O[C@H]3C[C@H](N(C3)S(=O)(=O)C)COC(C)=O)C=C(C=C2)F)S1)C | C22H24FN5O6S2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-[4-Fluoro-2-((3S,5S)-5-hydroxymethyl-1-methanesulfonyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N)O[C@@H]2CN([C@@H](C2)CO)S(=O)(=O)C | C20H22FN5O5S2
